US08350033B2
Adding water (20 mL), NaOH (0.14 g, 3.5 mmol) into a 100 mL round-bottom flask, stirring to dissolve, then adding 95% alcohol (20 mL), (E)-3-(4-((3,5,6-Trimethylpyrazin-2-yl) methoxy)-3-methoxyphenyl)acrylic acid ethyl ester (1.0 g, 2.8 mmol), stifling under room temperature to react for 4 hours, TLC [V(petroleum ether):V(ethyl acetate)=3:1 as developing agent] detecting shows that reaction is complete, (Rf of raw material=0.5, Rf of product=0), distilling out the alcohol under reduced pressure, adjusting pH of the reaction solution to 4-5 with 6.0M HCl while keeping the reaction solution cool to separate out solid, filtering, washing the solid with cool water for three times, processing with vacuum filtration, recrystallizing with anhydrous alcohol, drying under 70° C. for 8 hours to obtain 0.87 g white crystalloid of (E)-3-(4-((3,5,6-Trimethylpyrazin-2-yl)methoxy)-3-methoxyphenyl)acrylic acid, wherein a yield is 94.6%, m.p. 156-158° C.

reactant | NaOH | 3.5 mmol, 0.14 g | [OH-].[Na+]
reactant | (E)-3-(4-((3,5,6-Trimethylpyrazin-2-yl) methoxy)-3-methoxyphenyl)acrylic acid ethyl ester | 2.8 mmol, 1.0 g | C(C)OC(\C=C\C1=CC(=C(C=C1)OCC1=NC(=C(N=C1C)C)C)OC)=O | C20H24N2O4
solvent | water | 20 mL | O | H2O
product | (E)-3-(4-((3,5,6-Trimethylpyrazin-2-yl)methoxy)-3-methoxyphenyl)acrylic acid | yield is 94.6% | CC=1C(=NC(=C(N1)C)C)COC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C18H20N2O4
